US05506267
4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoylphenylalanine t-butyl ester
To a solution of 4-arninobenzoylphenylalanine t-butyl ester (170 mg) in pyridine (5 ml), phospholic trichloride (0.022 ml) was added, followed by stirring at room temperature for 2 hours. After addition of 6,7-bis(palmitoyloxy)- 4-thiaheptanoic acid (164 mg) as obtained in Reference Example 4, the reaction mixture was stirred at room temperature for 24 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:2) to yield the title compound (208 mg, yield 86%) as a colorless wax-like substance.

reactant | 4-arninobenzoylphenylalanine t-butyl ester | 170 mg | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CC1=CC=CC=C1)=O | C20H24N2O3
reactant | 6,7-bis(palmitoyloxy)- 4-thiaheptanoic acid | 164 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-(6,7-bis(palmitoyloxy)-4-thiaheptanoylamino)benzoylphenylalanine t-butyl ester | 208 mg, yield 86% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)CC1=CC=CC=C1)=O | C58H94N2O8S
